US07067517B2
4-(Tetrahydrofuran-2-ylmethyl)-piperazine-1-carboxylic acid 4-(3-chloro-5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The hydrochloride of the title compound was prepared from 4-(3-chloro-5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and 1-(tetrahydrofuran-2-ylmethyl)-piperazine, yield 23%. White crystals, m.p. 98–100° C.; IR (KBr): ν 1731 (C═O) cm−.

reactant | 4-(3-chloro-5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1Cl)C(F)(F)F | C13H6Cl2F3NO3
reactant | 1-(tetrahydrofuran-2-ylmethyl)-piperazine | O1C(CCC1)CN1CCNCC1 | C9H18N2O
reactant | KBr | [K+].[Br-]
product | 4-(Tetrahydrofuran-2-ylmethyl)-piperazine-1-carboxylic acid 4-(3-chloro-5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(C=C1)OC(=O)N1CCN(CC1)CC1OCCC1 | C22H23ClF3N3O4
